US05578627
Under a nitrogen stream, 0.27 g of sodium borohydride and 0.86 ml of a boron trifluoride-diethyl ether complex salt are added to a solution of 0.40 g of 5-chloro-3-(2-formylamino-3-methoxypropoxy)-1,2-benzoisoxazole in 6 ml of tetrahydrofuran at -45° to -40° C. The temperature is elevated to 20°-25° C., and then, they are subjected to reaction at the same temperature for two hours. To the reaction mixture is added 15 ml of methanol with ice-cooling, and then, 0.58 ml of a dioxane solution (2.2N) of hydrogen chloride is added, after which they are stirred for ten minutes. Thereafter, the solvent is removed by distillation under reduced pressure. To the residue obtained are added ethyl acetate and water, and the pH is adjusted to 9 with a 10% (w/w) aqueous sodium hydroxide solution, after which the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is dissolved in 8 ml of 2-propanol, and to this solution is added 0.70 ml of a dioxane solution (2.2N) of hydrogen chloride, after which the crystals precipitated are collected by filtration, to obtain 0.25 g of colorless, crystalline 3-(2-methylamino-3-methoxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 197°-198° C.

reactant | sodium borohydride | 0.27 g | [BH4-].[Na+]
reactant | 5-chloro-3-(2-formylamino-3-methoxypropoxy)-1,2-benzoisoxazole | 0.40 g | ClC=1C=CC2=C(C(=NO2)OCC(COC)NC=O)C1 | C12H13ClN2O4
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | 2-propanol | 8 ml | CC(C)O | C3H8O
solvent | dioxane | 2.2N, 0.70 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 2.2N, 0.58 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 15 ml | CO | CH4O
product | 3-(2-methylamino-3-methoxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.CNC(COC1=NOC2=C1C=C(C=C2)Cl)COC | InChI=1S/C12H15ClN2O3.ClH/c1-14-9(6-16-2)7-17-12-10-5-8(13)3-4-11(10)18-15-12;/h3-5,9,14H,6-7H2,1-2H3;1H
